US08106215B2
6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-{7-methyl-3-[2-amino-5-(3-methyl-phenyl)-thiazole-4-carbonyl]-3-aza-bicyclo[3.3.0]oct-2-ylmethyl}-amide
prepared by reaction of 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with 2-amino-5-(3-methyl-phenyl)-thiazole-4-carboxylic acid.

reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN[C@@H]([C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C | C16H22N4OS
reactant | 2-amino-5-(3-methyl-phenyl)-thiazole-4-carboxylic acid | NC=1SC(=C(N1)C(=O)O)C1=CC(=CC=C1)C | C11H10N2O2S
product | 6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-{7-methyl-3-[2-amino-5-(3-methyl-phenyl)-thiazole-4-carbonyl]-3-aza-bicyclo[3.3.0]oct-2-ylmethyl}-amide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C)C(=O)C=2N=C(SC2C2=CC(=CC=C2)C)N | C27H30N6O2S2
